Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([CH2:2][CH:3]1[CH2:4][N:5]=[C:6]([c:7]2[cH:8][c:9]3[cH:10][cH:11][cH:12][c:13]([N:14]([CH3:15])[S:16](=[O:17])(=[O:18])[c:19]4[cH:20][cH:21][cH:22][s:23]4)[c:24]3[nH:25]2)[S:26]1)=[O:27].[CH3:28][S:29]([NH2:30])(=[O:31])=[O:32]>>[C:1]([CH2:2][CH:3]1[CH2:4][N:5]=[C:6]([c:7]2[cH:8][c:9]3[cH:10][cH:11][cH:12][c:13]([N:14]([CH3:15])[S:16](=[O:17])(=[O:18])[c:19]4[cH:20][cH:21][cH:22][s:23]4)[c:24]3[nH:25]2)[S:26]1)(=[O:27])[NH:30][S:29]([CH3:28])(=[O:31])=[O:32],[OH:101][C:1]([CH2:2][CH:3]1[CH2:4][N:5]=[C:6]([c:7]2[cH:8][c:9]3[cH:10][cH:11][cH:12][c:13]([N:14]([CH3:15])[S:16](=[O:17])(=[O:18])[c:19]4[cH:20][cH:21][cH:22][s:23]4)[c:24]3[nH:25]2)[S:26]1)=[O:27].[CH3:28][S:29]([NH2:30])(=[O:31])=[O:32].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH2:2][CH:3]1[CH2:4][N:5]=[C:6]([c:7]2[cH:8][c:9]3[cH:10][cH:11][cH:12][c:13]([N:14]([CH3:15])[S:16](=[O:17])(=[O:18])[c:19]4[cH:20][cH:21][cH:22][s:23]4)[c:24]3[nH:25]2)[S:26]1)(=[O:27])[NH:30][S:29]([CH3:28])(=[O:31])=[O:32],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (30, 1), ([1, 27], 27), (303, 30.1), ([30.1, 30], 30), (27, [27, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[N-]=[N+]=[N:2][CH2:3][C:4]([CH2:5][c:6]1[cH:7][cH:8][c:9]([CH2:10][CH2:11][c:12]2[n:13][c:14]([NH:15][C:16]([CH3:17])=[O:18])[s:19][cH:20]2)[cH:21][cH:22]1)=[O:23]>>[NH2:2][CH2:3][C:4]([CH2:5][c:6]1[cH:7][cH:8][c:9]([CH2:10][CH2:11][c:12]2[n:13][c:14]([NH:15][C:16]([CH3:17])=[O:18])[s:19][cH:20]2)[cH:21][cH:22]1)=[O:23],[N-:201]=[N+:101]=[N:2][CH2:3][C:4]([CH2:5][c:6]1[cH:7][cH:8][c:9]([CH2:10][CH2:11][c:12]2[n:13][c:14]([NH:15][C:16]([CH3:17])=[O:18])[s:19][cH:20]2)[cH:21][cH:22]1)=[O:23].c1ccccc1[P:301](c2ccccc2)c3ccccc3.[OH2:302]>>[NH2:2][CH2:3][C:4]([CH2:5][c:6]1[cH:7][cH:8][c:9]([CH2:10][CH2:11][c:12]2[n:13][c:14]([NH:15][C:16]([CH3:17])=[O:18])[s:19][cH:20]2)[cH:21][cH:22]1)=[O:23],Staudinger,"[(301, 2), ([2, 101], 101), (201, 301), ([2, 101], [101, 201]), ([201, 301], [301, 2]), (302, 301), ([301, 2], 2), (2, 302.1), ([302.1, 302], 302), (302, [302, 301]), ([301, 2], 2), (2, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1.[CH3:8][C:9]([CH3:10])([CH3:11])[O:12][C:13](=[O:14])[NH:15][CH2:16][CH2:17][CH2:18][C@H:19]([NH2:20])[C:21](=[O:22])[OH:23]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[NH:20][C@@H:19]([CH2:18][CH2:17][CH2:16][NH:15][C:13]([O:12][C:9]([CH3:8])([CH3:10])[CH3:11])=[O:14])[C:21](=[O:22])[OH:23],[CH3:8][C:9]([CH3:10])([CH3:11])[O:12][C:13](=[O:14])[NH:15][CH2:16][CH2:17][CH2:18][C@H:19]([NH2:20])[C:21](=[O:22])[OH:23].[O:101]=[CH:1][c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[NH:20][C@@H:19]([CH2:18][CH2:17][CH2:16][NH:15][C:13]([O:12][C:9]([CH3:8])([CH3:10])[CH3:11])=[O:14])[C:21](=[O:22])[OH:23],reductive_amination,"[(20, 1), ([1, 101], 301), (101, 20.1), ([20.1, 20], 20), (20, [20, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 20], 20)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][CH2:2][CH:3]([CH3:4])[CH3:5].[cH:6]1[cH:7][n:8][c:9]2[c:10]([cH:11]1)[CH2:12][CH2:13][CH2:14][CH:15]2[NH:16][CH2:17][c:18]1[n:19][c:20]2[cH:21][cH:22][cH:23][cH:24][c:25]2[nH:26]1>>[CH2:1]([CH2:2][CH:3]([CH3:4])[CH3:5])[N:16]([CH:15]1[c:9]2[n:8][cH:7][cH:6][cH:11][c:10]2[CH2:12][CH2:13][CH2:14]1)[CH2:17][c:18]1[n:19][c:20]2[cH:21][cH:22][cH:23][cH:24][c:25]2[nH:26]1,[cH:6]1[cH:7][n:8][c:9]2[c:10]([cH:11]1)[CH2:12][CH2:13][CH2:14][CH:15]2[NH:16][CH2:17][c:18]1[n:19][c:20]2[cH:21][cH:22][cH:23][cH:24][c:25]2[nH:26]1.[O:101]=[CH:1][CH2:2][CH:3]([CH3:4])[CH3:5].[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([CH2:2][CH:3]([CH3:4])[CH3:5])[N:16]([CH:15]1[c:9]2[n:8][cH:7][cH:6][cH:11][c:10]2[CH2:12][CH2:13][CH2:14]1)[CH2:17][c:18]1[n:19][c:20]2[cH:21][cH:22][cH:23][cH:24][c:25]2[nH:26]1,reductive_amination,"[(16, 1), ([1, 101], 301), (101, 16.1), ([16.1, 16], 16), (16, [16, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 16], 16)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
